Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Singulair
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None
attach
 
Pertinent Results:
ADMISSION LABS:
====================
___ 03:12PM BLOOD WBC-8.3 RBC-4.57* Hgb-15.5 Hct-47.0 
MCV-103* MCH-33.9* MCHC-33.0 RDW-13.3 RDWSD-50.7* Plt ___
___ 03:12PM BLOOD Plt ___
___ 08:35PM BLOOD ___ PTT-35.0 ___
___ 03:12PM BLOOD UreaN-23* Creat-1.7* Na-139 K-4.1 Cl-98 
HCO3-25 AnGap-16
___ 08:35PM BLOOD Albumin-3.7 Calcium-9.4 Phos-2.7 Mg-2.2

DISCHARGE LABS:
====================
___ 05:50AM BLOOD WBC-8.9 RBC-2.75* Hgb-9.4* Hct-28.7* 
MCV-104* MCH-34.2* MCHC-32.8 RDW-14.0 RDWSD-52.2* Plt ___
___ 05:50AM BLOOD ___
___ 05:50AM BLOOD Plt ___
___ 05:50AM BLOOD Glucose-87 UreaN-24* Creat-1.6* Na-145 
K-3.8 Cl-108 HCO3-24 AnGap-13
___ 05:50AM BLOOD LD(LDH)-358*
___ 05:50AM BLOOD Calcium-8.6 Phos-2.8 Mg-1.9 Iron-75
___ 05:50AM BLOOD calTIBC-211* VitB12-___ Hapto-142 
Ferritn-230 TRF-162*

IMAGING:
====================
RIB Unit, w/ AP Chest ___
"IMPRESSION:  
A in comparison with the study of ___, frontal and 
oblique views show no evidence of acute fracture or 
pneumothorax. No change in the appearance of the heart and 
lungs, with pacer lead extending to the right ventricle."

Hip X-ray ___
"IMPRESSION:  
No fracture."

Pelvis AP ___:
"FINDINGS:  
There is no fracture.  No focal osseous abnormality.  Pubic 
symphysis and SI joints are preserved.  Proximal right femur is 
within normal limits without fracture.  Vascular calcifications 
are noted. 
IMPRESSION:  
No fracture."

TIB/FIB ___:
"FINDINGS:  
Tricompartmental degenerative changes are again noted with most 
significant joint space loss at the medial compartment.  There 
is no fracture. No suprapatellar effusion.  Sclerotic focus in 
the mid to distal right femur with seen on prior and may 
represent enchondroma or bone infarct. The tibia and fibula are 
within normal limits.  No focal osseous abnormality. Dense 
vascular calcifications are noted. 
IMPRESSION:  
Degenerative changes at the knee.  No fracture."

Knee X-ray ___:
"FINDINGS:  
Tricompartmental degenerative changes are again noted with most 
significant joint space loss at the medial compartment.  There 
is no fracture. No suprapatellar effusion.  Sclerotic focus in 
the mid to distal right femur with seen on prior and may 
represent enchondroma or bone infarct. 
The tibia and fibula are within normal limits.  No focal osseous 
abnormality. Dense vascular calcifications are noted. 
IMPRESSION:  
Degenerative changes at the knee.  No fracture."

Gleno-humeral shoulder R ___:
"FINDINGS:  
There is no fracture or dislocation involving the glenohumeral 
or AC joint. Significant degenerative changes are seen involving 
the right glenohumeral joint.  Moderate degenerative changes are 
also seen involving the right acromioclavicular joint.  No 
suspicious lytic or sclerotic lesions are identified. No 
periarticular calcification or radio-opaque foreign body is 
seen. 
IMPRESSION: 
1. No fracture or dislocation involving the glenohumeral or 
right AC joint. 
2. Severe degenerative changes are seen involving the right 
glenohumeral 
joint."

CT Head without contrast ___:
"IMPRESSION: 
1. No acute intracranial abnormality. 
2. Paranasal sinus disease."

CT Chest without contrast ___
"IMPRESSION: 
1. Prominent bilateral, lower lobe predominant bronchiectatic 
changes, with extensive peribronchial cuffing and several foci 
of distal segmental mucous plugging. 
2. Several small peripheral regions of ___ opacity 
within the 
bilateral lobes, which may reflect small airways disease. 
3. 7 mm right upper lobe pulmonary nodule. 
4. Nonspecific soft tissue stranding overlying the proximal 
right upper arm with size asymmetry of the underlying biceps 
muscle, is nonspecific, but raises possibility for right biceps 
injury."

CT C-SPine without contrast ___:
"IMPRESSION: 
1. Asymmetric widening of the left C2-C3 facet joint, new from 
the prior study 
from ___, which could reflect interval degenerative 
changes, although 
facet capsular injury cannot definitely be excluded. 
2. No evidence of acute cervical spine fracture or traumatic 
malalignment. 
3. Multilevel degenerative changes, as above."

X-ray Elbow ___:
"FINDINGS:  
There is no fracture.  No acute osseous abnormality.  Mild 
chondrocalcinosis is noted.  Additionally, linear calcific 
density adjacent to the radial neck on the AP and oblique views 
likely in the adjacent soft tissues.  No elbow joint effusion 
based on this exam which is not at full 90 degrees flexion. 
IMPRESSION:  
No visualized fracture."

CT L-Spine without contrast ___:
"IMPRESSION: 
1. Mild left lateral L1 and L2 vertebral body height loss with 
cortical 
step-off laterally suggesting that these are recent fractures. 
2. Compression deformity of L5 resulting in approximately ___ 
loss of 
vertebral body this is new from prior CT in ___ though there is 
no CT 
evidence to suggest that it is acute. 
3. Bilateral L5 pars defects with grade 1 anterolisthesis of L5 
on S1, 
unchanged from prior exam.  Moderate to severe neural foraminal 
narrowing at this level. 
4. Multilevel disc"

TTE ___:
"The left atrial volume index is SEVERELY increased. The right 
atrium is mildly enlarged. There is normal left ventricular wall 
thickness with a small cavity. There is suboptimal image quality 
to assess regional left ventricular function. Overall left 
ventricular systolic function is hyperdynamic. The visually 
estimated left ventricular ejection fraction is 80%. Left 
ventricular cardiac index is high (>4.0 L/min/m2). There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular
cavity size with normal free wall motion. The aortic sinus 
diameter is normal for gender with a mildly dilated ascending 
aorta. The aortic arch is mildly dilated with a normal 
descending aorta diameter. There
is no evidence for an aortic arch coarctation. The aortic valve 
leaflets are moderately thickened. There is mild aortic valve 
stenosis (valve area 1.5-1.9 cm2). There is mild to moderate 
[___] aortic regurgitation. The mitral valve leaflets are 
mildly thickened with no mitral valve prolapse. There is mild to 
moderate [___] mitral regurgitation. The pulmonic valve 
leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is mild to moderate [___] tricuspid 
regurgitation. Due to
acoustic shadowing, the severity of tricuspid regurgitation may 
be UNDERestimated. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.
IMPRESSION: Poor image quality. Small, hyperdynamic left 
ventricle.
Compared with the prior TTE (images reviewed) of ___, 
there is no obvious change, but the suboptimal image quality of 
the studies precludes definitive comparison.

RECOMMEND: If clinically indicated, a TEE is suggested for 
further evaluation of cardiac structure and function."

 
Brief Hospital Course:
TRANSITIONAL ISSUES:
====================
[] Medications STARTED: apixaban 2.5mg PO BID, multivitamin 
daily
[] Medications STOPPED: warfarin

[] Neurosurgery:
- Please repeat lumbar spine AP and lateral x-rays at follow-up 
appointment with Dr. ___ to assess for progressive kyphosis 


[] Sports medicine/Rehab:
- Please follow-up RUE ROM and symptomatic improvement

[] PCP/REHAB:
- Please repeat CBC in 1 week. H/H 9.4/28.7 and PLTs 150 on 
discharge
- TTE while inpatient was limited, but did not demonstrate a 
clear cause of his potential syncopal event. Consider cardiology 
follow-up and potential TEE in the outpatient setting
- There was concern for proprioceptive defect and peripheral 
neuropathy. He had a normal B12/A1c while inpatient and received 
thiamine x3 as well as started on multivitamin. He may benefit 
from outpatient neurology follow-up as well as outpatient TSH to 
assess etiology of c/f peripheral neuropathy
- Noted to have dyspnea on exertion. His TTE was largely stable 
from prior although somewhat limited. He did have a CT chest 
with evidence of chronic bronchiectasis and distal mucous 
plugging, and thus, PFTs should be ordered in the outpatient 
setting
- Please follow-up blood pressure and adjust home 
anti-hypertensive as needed
- Noted to have 7mm RUL pulmonary nodule. For incidentally 
detected single solid pulmonary nodule measuring 6 to 8 mm, a CT 
follow-up in 6 to 12 months is recommended in a low-risk 
patient, optionally followed by a CT in ___ months. In a 
high-risk patient, a CT follow-up in 6 to 12 months, and a CT in 
___ months is recommended. 

[] Prior to discharge from rehab, please resume homecare 
services for medication management. 

# CONTACT: Name of health care proxy: ___ 
___: friend 
Phone number: ___ 

SUMMARY:
=====================
Mr. ___ is an ___ yo male with persistent AF on coumadin, 
tachy-brady syndrome s/p ___ single chamber PPM 
___, CKD, and asthma who presented after
fall from standing position felt to likely be multifactorial due 
to vasovagal event, gait unsteadiness, and proprioceptive 
defect. His fall was complicated by spinal compression 
deformities at L1, L2, and L5, as well as anterolisthesis of L5 
on S1 due to bilateral pars defect, and he was evaluated by 
neurosurgery who recommended no acute intervention with plan to 
follow-up as an outpatient. He was also noted to have R biceps 
injury that was evaluated by ortho without indication for acute 
intervention, and he will follow-up with sports medicine at his 
rehab facility. Due to coagulopathy, he was given vitamin K x1 
with improvement in his INR, and he was eventually transitioned 
to Eliquis as per previous EP recommendatoins. He is being 
discharged to rehab with close orthopedics and sports medicine 
follow-up at rehab. 

ACTIVE ISSUES:
=======================
#C/f syncope
#Dizziness
#Unsteady gait
Patient had fall from standing with symptomatic dizziness prior 
to the fall. The etiology was felt to be due to progressively 
unsteady gait, in the setting of proprioceptive deficit and 
concern for peripheral neuropathy potentially due to nutritional 
deficiency as well as osteoarthropathy given endorsement of 
chronic b/l knee pain. He had a B12 and A1c checked which were 
normal and he was started on multivitamin while also receiving 
thiamine x3. He worked with ___ who noted impaired balance and 
recommended rehab. He also was noted to have dizziness prior to 
the fall in the setting of progressive episodes of diaphoresis, 
shortness of breath and lightheadedness concerning for recurrent 
vasovagal events. He has history of paroxysmal AF, but pacemaker 
interrogation (___) was normal. He underwent TTE, which 
demonstrated EF 80% with a hyderdynamic LV. He was noted to be 
orthostatic, and there may be a contribution from autonomic 
insufficiency, although his symptoms and orthostasis resolved 
with IVF. He may benefit from repeat TTE in the outpatient 
setting as well as potential cardiology and neurology follow-up 
for assessment of potential peripheral neuropathy.

#Compression deformities
#Assymetric anterolisthesis of L5, S1
Due to fall noted above, Ortho and NSGY evaluated the patient, 
and they did not recommend acute surgical intervention. In 
regards to R biceps injury, he was evaluated by Orthopedics 
service who recommend ___ with sports medicine follow-up at 
rehab. Additionally, they encouraged avoidance of a sling unless 
patient is very uncomfortable to avoid frozen shoulder and 
encourage mobilization. On trauma evaluation he was found to 
have spinal compression deformities at L1, L2, and L5, as well 
as anterolisthesis of L5 on S1 due to bilateral pars defect. 
They did not recommend acute intervention, but he will follow-up 
in the ___ clinic in 4 weeks with Dr. ___ with 
repeat lumbar spine AP and lateral x-rays to assess for 
progressive kyphosis. He will be discharged Tylenol ___ TID 
prn.

#Persistent AF
Noted to have a CHADSVASc 5, and presented on coumadin, found to 
have a supratherapeutic INR. Per last EP note at the end of 
___,
plan was to switch over to low dose Eliquis given age and renal
function, and thus, after INR was reversed with vitamin K, he 
was transitioned to 2.5mg Eliquis BID. He initially was started 
on fractionaed metoprolol tartrate 6.25 q6h, but was 
transitioned to home metoprolol succinate 25mg PO daily when his 
orthostasis resolved.

#Macrocytic anemia
#Thrombocytopenia
MCV 103, Hgb likely hemo-concentrated on admission given drop
from 15.5-->9.5 in setting of large ecchymoses. He had a normal 
B12 and normal iron studies in addition to appropriate 
reticulocyte count. He had no history of excessive alcohol use, 
and his thrombocytopenia was felt to be consumptive in the 
setting of acute significant echymoses. His hemoglobin 
stabilized at 9.4 on discharge as did his platelet count which 
was 150. He should have repeat CBC in the outpatient setting.

#Dyspnea
#Asthma
#Chronic bronchiectasis
History of asthma and OSA, not compliant with CPAP. DOE 
concerning for possible cardiac etiology as well. CT chest with 
evidence of chronic bronchiectasis and distal mucous plugging. 
Patient is not hypoxic on room air. Troponin stable at 0.02 on 
admission. TTE was notable for small hyperdynamic left 
ventricle, but there was also poor image quality. He should have 
outpatient PFTs. He was continued on his home duonebs as well as 
home prednisone.

#Coagulopathy
Patient notably unsure about how to dose his warfarin at home. 
He received IV 5mg Vitamin K x1. HIs INR improved and prior to 
discharge, he was transitioned to 2.5mg Eliquis BID. His 
hemoglobin was stable on discharge.

#Hypertension 
Patient has history of hypertension. Home losartan initially 
held in the setting of orthostatic hypotension, but he was 
restarted on his home losartan on discharge.

CHRONIC ISSUES
==============
#BPH: continued home finasteride

#CKD: creatinine remained at baseline

#HLD: continued on home pravastatin 40 qPM
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. PredniSONE 10 mg PO DAILY 
3. Pravastatin 40 mg PO QPM 
4. Warfarin 2.5-5 mg PO DAILY16 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Losartan Potassium 75 mg PO DAILY 
7. Fluticasone Propionate 110mcg 2 PUFF IH BID 
8. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Apixaban 2.5 mg PO BID  
3.  Multivitamins 1 TAB PO DAILY  
4.  Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath  
5.  Finasteride 5 mg PO DAILY  
6.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
7.  Losartan Potassium 50 mg PO DAILY  
8.  Metoprolol Succinate XL 25 mg PO DAILY  
9.  Pravastatin 40 mg PO QPM  
10.  PredniSONE 10 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
===================
Fall
Concern for syncope
Vertebral compression deformities

Secondary Diagnoses:
===================
Atrial fibrillation
Anemia
Thrombocytopenia
Hypertension
Benign prostatic hyperplasia
Chronic Kidney Disese
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a fall
 
What was done for me while I was in the hospital?  
- You were found to have fractures to your vertebrae and were 
found to have a R arm injury. You were evaluated by the 
orthopedic and neurosurgery doctors who did not feel as if you 
need any surgical intervention
- Your pacemaker was interrogated and you did not have an 
irregular heart beat that made you fall
- You underwent an echocardiogram of your heart, which did not 
demonstrate a reason for your fall
- Your warfarin was switched to a medication called Eliquis
- You were evaluated by physical therapy who felt you should go 
to rehab prior to returning home

What should I do when I leave the hospital?  
- You should keep all of your appointments and take all of your 
medications as prescribed

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___